US08304577B2
A solution of (R)-tert-butyl 2-(4-(benzyloxy)benzoyl)pyrrolidine-1-carboxylate (247 mg, 0.648 mmol) and dry ammonium acetate (399 mg, 5.18 mmol) in methanol (13.0 mL) was stirred at room temperature for 30 min. To this was added sodium cyanotrihydroborate (81 mg, 1.295 mmol) and the reaction mixture heated to 60° C. for 24 h. An additional portion of sodium cyanotrihydroborate (81 mg, 1.30 mmol) was added and the heating continued at 60° C. for 48 h. The reaction solution was cooled to room temperature, quenched with water and extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (5%→60% ethyl acetate in hexanes). Obtained (R)-tert-butyl 2-(amino(4-(benzyloxy)phenyl)methyl)pyrrolidine-1-carboxylate (100 mg, 0.262 mmol, 100% yield) as a slightly yellow oil that was carried on without further purification. 1H NMR (400 MHz, CDCl3) δ 7.27-7.46 (m, 5H), 6.90-7.15 (m, 4H), 4.97-5.14 (m, 2H), 4.10-4.53 (m, 1H), 3.27-3.64 (m, 1H), 2.55-2.78 (m, 1H), 2.26-2.45 (m, 1H), 1.54-2.11 (m, 4H), 1.45-1.54 (m, 9H); LRMS (ESI) m/e 383.13, 404.11 [(M+H)+, calcd for C23H31N2O3 383.23].

reactant | (R)-tert-butyl 2-(4-(benzyloxy)benzoyl)pyrrolidine-1-carboxylate | 0.648 mmol, 247 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C23H27NO4
reactant | ammonium acetate | 5.18 mmol, 399 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanotrihydroborate | 1.295 mmol, 81 mg | [B-]C#N.[Na+]
reactant | sodium cyanotrihydroborate | 1.30 mmol, 81 mg | [B-]C#N.[Na+]
solvent | methanol | 13.0 mL | CO | CH4O
product | (R)-tert-butyl 2-(amino(4-(benzyloxy)phenyl)methyl)pyrrolidine-1-carboxylate | 0.262 mmol, 100 mg, 100% yield | NC([C@@H]1N(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H30N2O3
